US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[7-(3-methoxypropoxy)benzofuran-2-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.339 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.215 g of 2-chloromethyl-7-(3-methoxypropoxy)benzofuran are reacted. The title compound is obtained as a yellow oil. Rf=0.37 (1:2 EtOAc-heptane); Rt=6.26.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.339 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 2-chloromethyl-7-(3-methoxypropoxy)benzofuran | 0.215 g | ClCC=1OC2=C(C1)C=CC=C2OCCCOC | C13H15ClO3
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[7-(3-methoxypropoxy)benzofuran-2-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC=2OC3=C(C2)C=CC=C3OCCCOC)C=CC=C1 | C40H51NO9
